### PR TITLE
H-level Truncations 

### PR DESCRIPTION
**Pull request by IanRay11**
I wanted to get this PR open. @tomdjong I'll let you know when it's ready for review.

### CODE REVIEW

**Comment by tomdjong** [comment]
@IanRay11 Please don't use title field for these long(er) messages. The PR should have a short and descriptive title, so that we have a clear overview of all PRs. You can put other kinds of messages as comments.

**Comment by IanRay11** [comment]
@tomdjong I've tried to identify and change things that you suggested in the past, but I may have missed some things like indentions, etc. I also think I could improve the readability of the proof of "trunc-id-family-is-identity-system", but haven't come to anything definitive. I'm sure you will have some suggestions.

File: source/UF/Truncations.lagda [hunk 1]
```diff
@@ -0,0 +1,428 @@
...
+
+  refl-trunc-id-family : trunc-id-family-type ∣ x ∣[ succ n ]
+  refl-trunc-id-family = trunc-id-backward-map x ∣ refl ∣[ n ]
+
+  identity-on-trunc-to-family : (v : ∥ X ∥[ succ n ])
+                              → (∣ x ∣[ succ n ] ＝ v)
+                              → trunc-id-family-type v
+  identity-on-trunc-to-family .(∣ x ∣[ succ n ]) refl = refl-trunc-id-family
+
+  trunc-id-family-is-identity-system : is-contr (Σ (trunc-id-family-type))
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:350]: Parentheses aren't needed in `(trunc-id-family-type)`

File: source/UF/Truncations.lagda [hunk 2]
```diff
@@ -0,0 +1,428 @@
...
+  trunc-id-family-is-identity-system =
+   ((∣ x ∣[ succ n ] , refl-trunc-id-family) , center-Q)
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:352]: Why `center-Q`? Why Q?

File: source/UF/Truncations.lagda (hunk 1 above)
Comment (tomdjong) [reply source/UF/Truncations.lagda:350]: Applies elsewhere as well, please fix it there too.

File: source/UF/Truncations.lagda [hunk 3]
```diff
@@ -0,0 +1,428 @@
...
+                                                  (∣ x ∣[ succ n ]
+                                                   , refl-trunc-id-family)
+                                                  (s , q)))
+             III
+    center-Q : is-central (Σ (trunc-id-family-type))
+                          (∣ x ∣[ succ n ] , refl-trunc-id-family)
+    center-Q (v , q) = IV v q 
+
+ trunc-identity-characterization : {𝓤 : Universe} {X : 𝓤 ̇} {n : ℕ}
+                                 → (ua : Univalence)
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:404]: We only need univalence for 𝓤 right? If so, I think having `is-univalent 𝓤` is a nicer assumption to make everywhere.

File: source/UF/Truncations.lagda [hunk 4]
```diff
@@ -0,0 +1,428 @@
...
+  identity-on-trunc-to-family : (v : ∥ X ∥[ succ n ])
+                              → (∣ x ∣[ succ n ] ＝ v)
+                              → trunc-id-family-type v
+  identity-on-trunc-to-family .(∣ x ∣[ succ n ]) refl = refl-trunc-id-family
+
+  trunc-id-family-is-identity-system : is-contr (Σ (trunc-id-family-type))
+  trunc-id-family-is-identity-system =
+   ((∣ x ∣[ succ n ] , refl-trunc-id-family) , center-Q)
+   where
+    I : (x' : X) (p : x ＝ x')
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:354]: Do these steps implement the proof I sketched on Discord? I would've thought that it should be simpler than the below. Did I miss something?

Comment (IanRay11) [reply source/UF/Truncations.lagda:354]: The proof you outlined was a string of equivalences but as you noted you really only needed functions in one of the directions. What I implemented here is that string of functions.

Comment (tomdjong) [reply source/UF/Truncations.lagda:354]: Right, I got that, but somehow the code seems too complicated, although I may be underestimating the conversion from paper to Agda. I'll probably take another stab at it in Round 2.

Comment (IanRay11) [reply source/UF/Truncations.lagda:354]: It wouldn't be the first time that I've overcomplicated something. You likely anticipate that I have to curry and apply truncation induction for two variables, you may be overlooking that another issue is that my trunc-id family only computes up to homotopy so I have to transport along that homotopy (your proof was able to gloss over this fact).

File: source/UF/Truncations.lagda [hunk 5]
```diff
@@ -0,0 +1,428 @@
...
+identity type of truncations. Note that we explicitly include the assumption of
+univalence for the characterization of idenity types but not globally as many
+important notion hold in the absence of univalence.
+
+\begin{code}
+
+{-# OPTIONS --safe --without-K #-}
+
+open import MLTT.Spartan
+open import UF.Base
```
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/UF/Truncations.lagda:16]: I believe this is something that has went under the radar in my other files, no?

[the remark this answers is not in the document]
Comment (tomdjong) [reply source/UF/Truncations.lagda:16]: Not unlikely. You can change it in this PR too if you like.

File: source/UF/Truncations.lagda [hunk 6]
```diff
@@ -0,0 +1,428 @@
...
+       II = ∥∥ₙ-rec-comp (∥∥ₙ-h-level n) (λ x → ∣ ⌜ e ⌝ x ∣[ n ]) (⌜ e ⌝⁻¹ y)
+       III = ap (λ y → ∣ y ∣[ n ]) (inverses-are-sections' e y)
+
+ succesive-truncations-equiv : (X : 𝓤 ̇) (n : ℕ)
+                             → (∥ X ∥[ n ]) ≃ (∥ (∥ X ∥[ succ n ]) ∥[ n ])
+ succesive-truncations-equiv X n = (f , (b , G) , (b , H))
+  where
+   f : (∥ X ∥[ n ]) → (∥ (∥ X ∥[ succ n ]) ∥[ n ])
+   f = ∥∥ₙ-rec (∥∥ₙ-h-level n) (λ x → ∣ ∣ x ∣[ succ n ] ∣[ n ])
+   b : (∥ (∥ X ∥[ succ n ]) ∥[ n ]) → (∥ X ∥[ n ])
```
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/UF/Truncations.lagda:254]: I think I copied the type from the goal agda provided and thoughtlessly

File: source/UF/Truncations.lagda (hunk 2 above)
Comment (IanRay11) [reply source/UF/Truncations.lagda:352]: It was an artifact of an older version where I called trunc-id-fam Q instead.

File: source/UF/Truncations.lagda [hunk 7]
```diff
@@ -0,0 +1,428 @@
...
+                               → X ≃ Y
+                               → (∥ X ∥[ n ]) ≃ (∥ Y ∥[ n ])
+ truncation-closed-under-equiv {𝓤} {𝓥} {n} {X} {Y} e = (f , (b , G) , (b , H))
+  where
+   f : ∥ X ∥[ n ] → ∥ Y ∥[ n ]
+   f = ∥∥ₙ-rec (∥∥ₙ-h-level n) (λ x → ∣ (⌜ e ⌝ x) ∣[ n ])
+   b : ∥ Y ∥[ n ] → ∥ X ∥[ n ]
+   b = ∥∥ₙ-rec (∥∥ₙ-h-level n) (λ y → ∣ (⌜ e ⌝⁻¹ y) ∣[ n ])
+   H : b ∘ f ∼ id
+   H = ∥∥ₙ-ind (λ s → hlevels-are-closed-under-id n (∥∥ₙ-h-level n) (b (f s)) s)
```
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/UF/Truncations.lagda:213]: Sure! Except it needs to be truncated codomain*.

to-＝-of-maps-with-truncated-codomain : {n : ℕ} {X : 𝓤 ̇} {Y : 𝓥 ̇}
                                       → (f g : X → ∥ Y ∥[ n ])
                                       → (x : X) → (f x ＝ g x) is-of-hlevel n
 to-＝-of-maps-with-truncated-codomain {𝓤} {𝓥} {n} {X} {Y} f g x =
  hlevels-are-closed-under-id n (∥∥ₙ-h-level n) (f x) (g x)

File: source/UF/Truncations.lagda [hunk 8]
```diff
@@ -0,0 +1,424 @@
...
+  ∥∥ₙ-rec (hlevels-are-upper-closed n (∥ X ∥[ n ]) (∥∥ₙ-h-level n))
+          (λ x → ∣ x ∣[ n ]) x
+
+ canonical-pred-map-comp : {X : 𝓤 ̇} {n : ℕ} (x : X)
+                         → canonical-pred-map (∣ x ∣[ succ n ]) ＝ (∣ x ∣[ n ])
+ canonical-pred-map-comp {𝓤} {X} {n} x =
+  ∥∥ₙ-rec-comp (hlevels-are-upper-closed n (∥ X ∥[ n ]) (∥∥ₙ-h-level n))
+               (λ _ → ∣ _ ∣[ n ]) x
+
+ to-＝-of-maps-with-truncated-codomain : {n : ℕ} {X : 𝓤 ̇} {Y : 𝓥 ̇}
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:203]: Sorry, I should have been clearer as this is not what I had in mind.
Instead, I would make lemmas like these
```
to-＝-of-maps-with-truncated-domain
 : {n : ℕ} {X : 𝓤 ̇  } {Y : 𝓥 ̇̇  }
   (f g : ∥ X ∥[ n ] → Y)
 → Y is-of-hlevel n
 → ((x : X) → f (∣ x ∣[ n ]) ＝ g (∣ x ∣[ n ]))
 → f ∼ g

to-＝-of-maps-between-truncated-types
 : {n : ℕ} {X : 𝓤 ̇  } {Y : 𝓥 ̇̇  }
   (f g : ∥ X ∥[ n ] → ∥ Y ∥[ n ])
 → ((x : X) → f (∣ x ∣[ n ]) ＝ g (∣ x ∣[ n ]))
 → f ∼ g
```
and use them in `truncation-closed-under-equiv` and `successive-truncations-equiv`.

File: source/UF/Truncations.lagda [hunk 9]
```diff
@@ -0,0 +1,424 @@
...
+            canonical-pred-map (∣ x ∣[ succ n ]) ＝⟨ canonical-pred-map-comp x ⟩
+            (∣ x ∣[ n ])                         ∎
+      where
+       I = ap b (∥∥ₙ-rec-comp (∥∥ₙ-h-level n) (λ x → ∣ ∣ x ∣[ succ n ] ∣[ n ]) x)
+       II = ∥∥ₙ-rec-comp (∥∥ₙ-h-level n) canonical-pred-map (∣ x ∣[ succ n ])
+
+\end{code}
+
+We now define an equivalence that characterizes the truncated identity type
+under the assumption of univalence (see the agda unimath library for a more
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:286]: What I meant was for you to acknowledge/give credit because the proof you give is essentially taken from the agda-unimath library.

File: source/UF/Truncations.lagda (hunk 4 above)
Comment (tomdjong) [reply source/UF/Truncations.lagda:350]: Got ya. I also had a go and I see where the complications came in. I'll fix up the indentation myself after merging this to try and make it a bit more readable, but we can consider this resolved.

File: source/UF/Truncations.lagda (hunk 8 above)
Comment (martinescardo) [reply source/UF/Truncations.lagda:203]: Shouldn't the name be `to-∼-of-maps-with-truncated-domain`?

Comment (IanRay11) [reply source/UF/Truncations.lagda:203]: Oh I see and I agree with Martin on name

File: source/UF/Truncations.lagda (hunk 9 above)
Comment (IanRay11) [reply source/UF/Truncations.lagda:286]: Gotcha.

**Comment by IanRay11** [comment]
@tomdjong sure.

File: source/UF/Truncations.lagda (hunk 4 above)
Comment (IanRay11) [reply source/UF/Truncations.lagda:350]: Okay

**Comment by IanRay11** [comment]
@tomdjong ready for further review.

File: source/UF/Truncations.lagda [hunk 10]
```diff
@@ -0,0 +1,435 @@
...
+\end{code}
+
+We now define an equivalence that characterizes the truncated identity type
+under the assumption of univalence. The following proof was inspired by
+the agda unimath library -- although the development there is more thorough --
+for details see: https://unimath.github.io/agda-unimath/foundation.truncations.
+
+\begin{code}
+
+ canonical-identity-trunc-map : {𝓤 : Universe} {X : 𝓤 ̇} {x x' : X} {n : ℕ}
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:303]: You can remove `{𝓤 : Universe}`.

File: source/UF/Truncations.lagda [hunk 11]
```diff
@@ -0,0 +1,435 @@
...
+                              → ∥ x ＝ x' ∥[ n ]
+                              → ∣ x ∣[ succ n ] ＝ ∣ x' ∣[ succ n ]
+ canonical-identity-trunc-map {𝓤} {X} {x} {x'} {n} =
+  ∥∥ₙ-rec (∥∥ₙ-hlevel (succ n) ∣ x ∣[ succ n ] ∣ x' ∣[ succ n ])
+          (ap (λ x → ∣ x ∣[ (succ n) ]))
+
+ module _ {𝓤 : Universe} {X : 𝓤 ̇} {n : ℕ}
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:310]: You can remove `{𝓤 : Universe}`.

File: source/UF/Truncations.lagda [hunk 12]
```diff
@@ -0,0 +1,435 @@
...
+     G' y = f (b (∣ y ∣[ n ]))           ＝⟨ I ⟩
+            f (∣ (⌜ e ⌝⁻¹ y) ∣[ n ])     ＝⟨ II ⟩
+            (∣ ⌜ e ⌝ (⌜ e ⌝⁻¹ y) ∣[ n ]) ＝⟨ III ⟩
+            (∣ y ∣[ n ])                 ∎
+      where
+       I = ap f (∥∥ₙ-rec-comp (∥∥ₙ-hlevel n) (λ y → ∣ (⌜ e ⌝⁻¹ y) ∣[ n ]) y)
+       II = ∥∥ₙ-rec-comp (∥∥ₙ-hlevel n) (λ x → ∣ ⌜ e ⌝ x ∣[ n ]) (⌜ e ⌝⁻¹ y)
+       III = ap (λ y → ∣ y ∣[ n ]) (inverses-are-sections' e y)
+
+ successive-truncations-equiv : (X : 𝓤 ̇) (n : ℕ)
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:254]: The arguments `X` and `n` are implicit in (almost?) all your other constructions. Should they be implicit here too?

File: source/UF/Truncations.lagda [hunk 13]
```diff
@@ -0,0 +1,435 @@
...
+  ∥∥ₙ-rec (hlevels-are-upper-closed n (∥ X ∥[ n ]) (∥∥ₙ-hlevel n))
+          (λ x → ∣ x ∣[ n ]) x
+
+ canonical-pred-map-comp : {X : 𝓤 ̇} {n : ℕ} (x : X)
+                         → canonical-pred-map (∣ x ∣[ succ n ]) ＝ (∣ x ∣[ n ])
+ canonical-pred-map-comp {𝓤} {X} {n} x =
+  ∥∥ₙ-rec-comp (hlevels-are-upper-closed n (∥ X ∥[ n ]) (∥∥ₙ-hlevel n))
+               (λ _ → ∣ _ ∣[ n ]) x
+
+ to-∼-of-maps-with-truncated-domain : {n : ℕ} {X : 𝓤 ̇} {Y : 𝓥 ̇}
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:203]: In this and the following two lemmas, for consistency, you probably want to move the argument `n` to appear after `X` and `Y`, at least that appears to be what you do in the other places.

File: source/UF/Truncations.lagda [hunk 14]
```diff
@@ -0,0 +1,435 @@
...
+                                     → f ∼ g
+ to-∼-of-maps-with-truncated-domain {𝓤} {𝓥} {n} {X} {Y} f g Y-hlev H =
+  ∥∥ₙ-ind (λ - → hlevels-are-closed-under-id n Y-hlev (f -) (g -)) H
+
+ to-∼-of-maps-between-truncated-types : {n : ℕ} {X : 𝓤 ̇} {Y : 𝓥 ̇}
+                                      → (f g : ∥ X ∥[ n ] → ∥ Y ∥[ n ])
+                                      → ((x : X)
+                                       → f (∣ x ∣[ n ]) ＝ g (∣ x ∣[ n ]))
+                                      → f ∼ g
+ to-∼-of-maps-between-truncated-types {𝓤} {𝓥} {n} {X} {Y} f g H =
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:217]: You don't need any of these `{𝓤} {𝓥} {n} {X} {Y}`.

File: source/UF/Truncations.lagda [hunk 15]
```diff
@@ -0,0 +1,435 @@
...
+
+ one-trunc-to-prop-trunc : {X : 𝓤 ̇} → ∥ X ∥[ 1 ] → ∥ X ∥
+ one-trunc-to-prop-trunc = ∥∥ₙ-rec (is-prop-implies-is-prop' ∥∥-is-prop) ∣_∣
+
+ prop-trunc-to-one-trunc : {X : 𝓤 ̇} → ∥ X ∥ → ∥ X ∥[ 1 ]
+ prop-trunc-to-one-trunc = ∥∥-rec one-trunc-is-prop (∣_∣[ 1 ])
+
+ one-trunc-≃-prop-trunc : {X : 𝓤 ̇}
+                        → (∥ X ∥[ 1 ]) ≃ ∥ X ∥
+ one-trunc-≃-prop-trunc {𝓤} {X} =
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:179]: You don't need any of these `{𝓤} {X}`.

File: source/UF/Truncations.lagda [hunk 16]
```diff
@@ -0,0 +1,435 @@
...
+and uniqueness, induction/recursion for two arguments and all associated
+computation rules.
+
+\begin{code}
+
+ ∥∥ₙ-rec : {X : 𝓤 ̇ } {Y : 𝓥 ̇ } {n : ℕ}
+         → Y is-of-hlevel n
+         → (X → Y)
+         → ∥ X ∥[ n ] → Y
+ ∥∥ₙ-rec {𝓤} {𝓥} {X} {Y} {n} Y-h-level f s =
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:76]: You don't need any of these arguments `{𝓤} {𝓥} {X} {Y} {n}` and it can be just be one line.

**Review by tomdjong — CHANGES_REQUESTED** [review]
Few more cosmetic suggestions.

File: source/UF/Truncations.lagda (hunk 14 above)
Comment (IanRay11) [reply source/UF/Truncations.lagda:217]: I use n.

Comment (IanRay11) [reply source/UF/Truncations.lagda:217]: Although it might be possible to make n in '∥∥ₙ-hlevel' implicit and then I wouldn't be using it. I'll check

Comment (IanRay11) [reply source/UF/Truncations.lagda:217]: I'm alittle tied to the n dependence, but what do you think?

**Comment by tomdjong** [comment]
@IanRay11 I'll look at this again (for a final time, I think) on Monday.

**Comment by IanRay11** [comment]
That is likely. Let me take a look this evening.

**Comment by IanRay11** [comment]
@tomdjong okay, I was able to.

**Comment by tomdjong** [comment]
@martinescardo I will change the indentation on a few lines (specifically lines 380-400) after merging, but other than I'm happy with this PR. Do you want to have a look yourself before I merge?

**Review by martinescardo — APPROVED** [review]
Thanks. I am happy with this.

**Comment by martinescardo** [comment]
> @martinescardo I will change the indentation on a few lines (specifically lines 380-400) after merging, but other than I'm happy with this PR. Do you want to have a look yourself before I merge?

You can merge now. (And it would be good to improve the indentation a bit at that place.)
